US07291631B2
{4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-amino]-butyl}-methyl-carbamic acid tert-butyl ester
Yellow oil prepared from 3,5-dimethyl-pyridine-2-carbaldehyde and (4-amino-butyl)-methyl-carbamic acid tert-butyl ester. 1H NMR (CDCl3) δ 1.44 (s, 9H), 1.53-1.57 (m, 4H), 2.27 (s, 6H), 2.69-2.73 (m, 2H), 2.82 (s, 3H), 3.18-3.23 (m, 2H), 3.83 (s, 2H), 7.24 (s, 1H), 8.20 (s, 1H).

reactant | 3,5-dimethyl-pyridine-2-carbaldehyde | CC=1C(=NC=C(C1)C)C=O | C8H9NO
reactant | (4-amino-butyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCN)=O | C10H22N2O2
product | {4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-amino]-butyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCNCC1=NC=C(C=C1C)C)=O | C18H31N3O2
